US08957203B2
To a stirring solution of NaH (0.334 g, 8.35 mmol) in DMF (10 mL) at 0° C. was added 1-chloroisoquinolin-4-ol (1 g, 5.57 mmol). The mixture was stirred at 0° C. for 10 min. before the addition of allyl bromide (0.808 g, 6.68 mmol) dropwise. The reaction mixture was stirred at rt for 1 h. The reaction mixture was diluted with ethyl acetate and then quenched with 1N HCl solution. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated to get the crude material. The material was purified by flash chromatography with 20% of EtOAc/hexane to afford 4-(allyloxy)-1-chloroisoquinoline (1.0 g, 4.55 mmol, 83% yield) as a white solid. MS: MS m/z 220.1 (M++1).

reactant | NaH | 8.35 mmol, 0.334 g | [H-].[Na+]
reactant | 1-chloroisoquinolin-4-ol | 5.57 mmol, 1 g | ClC1=NC=C(C2=CC=CC=C12)O | C9H6ClNO
reactant | allyl bromide | 6.68 mmol, 0.808 g | C(C=C)Br | C3H5Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(allyloxy)-1-chloroisoquinoline | 4.55 mmol, 1.0 g, 83% yield | C(C=C)OC1=CN=C(C2=CC=CC=C12)Cl | C12H10ClNO
